US04464300
30 g of 7-chloro-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1-benzazepin-2-one are dissolved in 105 ml of hexamethylphosphoric acid triamide and treated with 22 g of 2,4-bis-(4-methoxyphenyl)-1,2,3,4-dithiadiphosphetane-2,4-disulphide. The mixture is heated to 100° for 1 hour, again cooled to room temperature and poured into 1.41 l of water. The mixture is extracted four times with ethyl acetate and the organic extracts are washed with water. The ethyl acetate solution is dried, filtered and evaporated in vacuo. After crystallization of the residue from ethanol, there is obtained 7-chloro-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1-benzazepine-2-thione of melting point 190°.

reactant | 7-chloro-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1-benzazepin-2-one | 30 g | ClC=1C=CC2=C(C(CCC(N2)=O)C2=C(C=CC=C2)F)C1 | C16H13ClFNO
reactant | 2,4-bis-(4-methoxyphenyl)-1,2,3,4-dithiadiphosphetane-2,4-disulphide | 22 g | COC1=CC=C(C=C1)S1(SP(P1)(C1=CC=C(C=C1)OC)=S)=S | C14H16O2P2S4
reactant | water | 1.41 l | O | H2O
solvent | hexamethylphosphoric acid triamide | 105 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 7-chloro-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1-benzazepine-2-thione | ClC=1C=CC2=C(C(CCC(N2)=S)C2=C(C=CC=C2)F)C1 | C16H13ClFNS
